US05541229
4'-[(2-Cyclohexylmethyl-5,6-dimethoxy-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylic acid
Prepared in analogous manner to Example 9 from tert.butyl 4'-[(2-cyclohexylmethyl-5,6-dimethoxy-benzimid-azol-1-yl)-methyl]biphenyl-2-carboxylate and trifluoroacetic acid in methylene chloride.

reactant | tert.butyl 4'-[(2-cyclohexylmethyl-5,6-dimethoxy-benzimid-azol-1-yl)-methyl]biphenyl-2-carboxylate | C1(CCCCC1)CC1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C)C=C(C(=C2)OC)OC | C34H40N2O4
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4'-[(2-Cyclohexylmethyl-5,6-dimethoxy-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylic acid | C1(CCCCC1)CC1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O)C=C(C(=C2)OC)OC | C30H32N2O4
